US07361678B2
{1-[4-(4-Chloro-phenoxy)-phenyl]-2-isobutyl-1H-imidazol-4-yl}phenol (2 mmol) was added to a solution of Cs2CO3 (10 eq., 20 mmol) in anhydrous DMF (5 ml). This was followed by addition of the mesylate obtained above and the reaction mixture was heated to 90° C. for 2–3 h. The reaction mixture was then cooled to rt, diluted with cold water and the product was extracted with DCM. The organic layer was dried over anhydrous sodium sulfate and concentrated in vacuo to give desired phenyl ether.

reactant | {1-[4-(4-Chloro-phenoxy)-phenyl]-2-isobutyl-1H-imidazol-4-yl}phenol | 2 mmol | ClC1=CC=C(OC2=CC=C(C=C2)N2C(=NC(=C2)C2=C(C=CC=C2)O)CC(C)C)C=C1 | C25H23ClN2O2
reactant | Cs2CO3 | 20 mmol, 10 eq. | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | mesylate | S(C)(=O)(=O)[O-]
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | phenyl ether | C1(=CC=CC=C1)OC1=CC=CC=C1 | C12H10O
